US07598383B2
Step A: Preparation of 4-(4-bromo-2-fluorophenylamino)-5-fluoro-1-methyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid N′-(1-imino-ethyl)-hydrazide:
Ethyl acetimidate HCl salt (40 mg, 0.32 mmol) and Et3N (0.049 mL, 0.35 mmol) were added to a stirred suspension of 4-(4-bromo-2-fluorophenylamino)-5-fluoro-1-methyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid hydrazide (0.10 g, 0.27 mmol) in 2:1 THF:DMF (3 mL) at 0° C. After 1.5 hours at 0° C. and 17 hours at room temperature, the reaction mixture was poured onto water, neutralized with dilute aqueous HCl and extracted with ethyl acetate. The combined organic extracts were dried (MgSO4) and concentrated under reduced pressure. Trituration with methylene chloride gave the desired product.

reactant | Ethyl acetimidate HCl salt | 0.32 mmol, 40 mg | Cl.C(C)(OCC)=N
reactant | Et3N | 0.35 mmol, 0.049 mL | CCN(CC)CC | C6H15N
reactant | 4-(4-bromo-2-fluorophenylamino)-5-fluoro-1-methyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid hydrazide | 0.27 mmol, 0.10 g | BrC1=CC(=C(C=C1)NC=1C(=CN(C(C1F)=O)C)C(=O)NN)F | C13H11BrF2N4O2
reactant | HCl | Cl | ClH
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | THF | C1CCOC1 | C4H8O
product | 4-(4-bromo-2-fluorophenylamino)-5-fluoro-1-methyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid N′-(1-imino-ethyl)-hydrazide | N=C(C)NNC(=O)C1=CN(C(C(=C1NC1=C(C=C(C=C1)Br)F)F)=O)C | C15H14BrF2N5O2
